US04450155
By the method of part A of Example 1 N-(tert-butyloxycarbonyl)-L-proline (4.3 g.) was condensed with N-methyl-3-phenylpropylamine hydrochloride (3.71 g.) and the product was purified by high pressure liquid chromatography on silica gel using hexane-ethyl acetate (3:2) as the eluant, affording 1-(tert-butyloxycarbonyl)-N-methyl-N-(3-phenylpropyl)-L-prolinamide as a syrup (2.65 g.).

reactant | N-(tert-butyloxycarbonyl)-L-proline | 4.3 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | N-methyl-3-phenylpropylamine hydrochloride | 3.71 g | Cl.CNCCCC1=CC=CC=C1
product | 1-(tert-butyloxycarbonyl)-N-methyl-N-(3-phenylpropyl)-L-prolinamide | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N(CCCC2=CC=CC=C2)C)CCC1 | C20H30N2O3
